*********************************************************************
*  Author               : Nazarsh@silego.com 
*  Date                 : 13/09/2017
*  File name            : SLG46127_PMOS.lib
*  Part Number          : SLG46127
*  Parameter ver.       : Ver.1
*  Simulator            : LTSpice
*  Model call name      : SLG_PMOS
*  TNOM                 : 25 degree
*********************************************************************

.SUBCKT SLG46127_PMOS 1 2 3
M0 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M1 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M2 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M3 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M4 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M5 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M6 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M7 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M8 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M9 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M10 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M11 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M12 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M13 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M14 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M15 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M16 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M17 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M18 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M19 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M20 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0
M21 1 2 3 3 pch_5 l=500n w=475.000000u m=14 nf=19 sd=540.0n ad=1.335e-10 as=1.335e-10 pd=510.68u ps=510.68u nrd=0.000568421 nrs=0.000568421 sa=480.0n sb=480.0n sca=0 scb=0 scc=0

.model pch_5 pmos 
+ LEVEL = 54
+ lmin=1e-005                         lmax=900.01e-6
+ wmin=1e-005                         wmax=900.01e-6
+ version=4.5               gbmin=1.00e-12            binunit=2
+ paramchk=1                mobmod=0                  capmod=2
+ igcmod=0                  igbmod=0                  geomod=0
+ diomod=1                  rdsmod=0                  rbodymod=0
+ rgatemod=0                permod=1                  acnqsmod=0
+ trnqsmod=0                tempmod=0                 tnom=25
+ toxe=1.336e-08            toxm=1.336e-08            dtox=2.5e-010
+ epsrox=3.9                wint=0                    lint=7.6e-008
+ ll=0                      wl=0                      lln=1
+ wln=1                     lw=0                      ww=0
+ lwn=1                     wwn=1                     lwl=0
+ wwl=0                     llc=0                     wlc=0
+ lwc=0                     wwc=0                     lwlc=0
+ wwlc=0                    xl=-3e-08                 xw=1e-08
+ dlc=4e-08                 dwc=0                     xpart=1
+ toxref=3e-009             dlcig=6.25e-009           vth0=-0.67963
+ k1=0.97                   k2=0.037225               k3=0
+ k3b=0                     w0=0                      dvt0=4.0687
+ dvt1=0.52816              dvt2=0.011077             dvt0w=0
+ dvt1w=0                   dvt2w=0                   dsub=0.56029329
+ minv=-0.1952              voffl=0                   dvtp0=4.3355e-007
+ dvtp1=0.1                 lpe0=7.3862e-008          lpeb=4.2657e-008
+ xj=1.5e-007               ngate=1.5e+021            ndep=1.424026e+017
+ nsd=1e+020                phin=0                    cdsc=0
+ cdscb=0                   cdscd=0                   cit=0.00065851
+ voff=-0.12527             nfactor=0.5               eta0=0.0055544
+ etab=-0.062447            ud=0                      lud=0
+ wud=0                     pud=0                     u0=0.015884
+ ua=2.3947e-009            ub=2.5245e-019            uc=-4.4578e-011
+ vsat=92922                a0=1.4274                 ags=0.1332
+ a1=0                      a2=1                      b0=0
+ b1=0                      keta=0.010156             dwg=0
+ dwb=0                     pclm=0.2993               pdiblc1=0
+ pdiblc2=0.00034318        pdiblcb=-0.2              drout=0.56
+ pvag=0                    delta=0.01                pscbe1=4.11e+008
+ pscbe2=1e-006             fprout=0                  pdits=0
+ pditsd=0                  pditsl=0                  rsh=6.998
+ rdsw=1000                 prwg=0                    prwb=0
+ wr=1                      alpha0=0                  alpha1=181.7
+ beta0=49.345              agidl=8.8405641e-012      bgidl=1.0679e+009
+ cgidl=150                 egidl=0.2624              aigbacc=0.01213
+ bigbacc=0.006537          cigbacc=0.2809            nigbacc=4.05
+ aigbinv=0.35              bigbinv=0.03              cigbinv=0.006
+ eigbinv=1.1               nigbinv=1                 aigc=0.01
+ bigc=0.00144              cigc=1.52e-005            aigsd=0.008379
+ bigsd=0.0002699           cigsd=3.93e-020           nigc=1
+ poxedge=1                 pigcd=2.171               ntox=1
+ xrcrg1=12                 xrcrg2=1                  cgso=8.00e-12
+ cgdo=8.00e-12             cgbo=0                    cgdl=2.00e-11
+ cgsl=2.00e-11             clc=1e-007                cle=0.6
+ cf=1.77e-10               ckappas=0.6               ckappad=0.6
+ acde=1                    moin=25                   noff=2
+ voffcv=-0.02              tvoff=0.00289876          ltvoff=0
+ wtvoff=0                  ptvoff=0                  kt1=-0.35922607
+ kt1l=0                    kt2=-0.05591255           ute=-1.3000339
+ ua1=-4.4011092e-010       ub1=-5.2151179e-019       uc1=4.9016e-011
+ prt=0                     at=91.088041              fnoimod=1
+ tnoimod=0                 em=1.192e+07              ef=1.13
+ noia=4.2e+40              noib=1.612e+24            noic=3.5e9
+ lintnoi=-1e-7             jss=3.9e-07               jsd=3.9e-07
+ jsws=2.5e-12              jswd=2.5e-12              jswgs=1.8e-11
+ jswgd=1.8e-11             njs=1.02                  njd=1.02
+ ijthsfwd=0.01             ijthdfwd=0.01             ijthsrev=0.01
+ ijthdrev=0.01             bvs=8.2                   bvd=8.2
+ xjbvs=1                   xjbvd=1                   jtsswgs=5.2e-010
+ jtsswgd=5.2e-010          njtsswg=30                xtsswgs=0.48
+ xtsswgd=0.48              tnjtsswg=1.5              vtsswgs=19.9
+ vtsswgd=19.9              pbs=0.845                 pbd=0.845
+ cjs=1.08e-03              cjd=1.08e-03              mjs=0.380
+ mjd=0.380                 pbsws=0.753               pbswd=0.753
+ cjsws=1.797e-10           cjswd=1.797e-10           mjsws=0.280
+ mjswd=0.280               pbswgs=0.753              pbswgd=0.753
+ cjswgs=2.0e-10            cjswgd=2.0e-10            mjswgs=0.280
+ mjswgd=0.280              tpb=1.6e-03               tcj=8.3e-04
+ tpbsw=1.2e-03             tcjsw=4.6e-04             tpbswg=1.2e-03
+ tcjswg=4.6e-04            xtis=3                    xtid=3
+ dmcg=2e-007               dmci=2e-007               dmdg=0
+ dmcgt=0                   dwj=0                     xgw=0
+ xgl=0                     rbpb=50                   rbpd=50
+ rbps=50                   rbdb=50                   rbsb=50
+ ngcon=1                   pu0=0+dpu0p_5             wu0=2.96e-011
+ lu0=0                     lvth0=- 0.8784e-008       wvth0=- 1.064e-008
+ pvth0=- 1.88e-015         wk2=5.6e-010              lvsat=- 0.00175
+ pvsat=1.6e-010            pbeta0=0

.ENDS
