*********************************************************************
*  TOSHIBA CORPORATION SEMICONDUCTOR & STORAGE PRODUCTS COMPANY
*  Date                 : 22/10/2013
*  File name            : SSM6P49NU.lib
*  Part Number          : SSM6P49NU
*  Parameter ver.       : Ver.3
*  Simulator            : PSpice
*  Model call name      : PMOS_SSM6P49NU
*  TNOM                 : 25 degree
*********************************************************************

.SUBCKT PMOS_SSM6P49NU 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.2
+ AD = 2E-007
+ AS = 2E-007
+ PD = 0.4
+ PS = 0.4
D0 1 3
+ DDS1
D1 1 3
+ DDS2
D2 10 2
+ DGS1
D3 10 3
+ DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 11
.MODEL smsmosfet PMOS
+ LEVEL = 7
+ VERSION = 3.3
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = -0.80021
+ VOFF = 0
+ NFACTOR = 0.93226
+ U0 = 2253.8143
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 5.1854e-10
+ UB = 5.87E-019
+ UC = -4.56E-011
+ VSAT = 551983
+ A0 = 0.94096
+ AGS = 0.2269
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.021384
+ RDSW = 5450.61
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 0.00024
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.03434
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 1.2781
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.0090846
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+010
+ PSCBE2 = 1E-007
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 7.872E-007
+ XPART = 0
+ CGSO = 1.5282e-09
+ CGDO = 1.7074e-11
+ CGBO = 1E-012
+ CGDL = 4.266e-09
+ CGSL = 3.4487e-12
+ CKAPPA = 2.1588
+ CF = 1E-012
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0.00074428
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 0.61069
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.73282
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.55572
+ KT1 = -0.2333
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 33000
+ PRT = 6070.99
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.05944
.MODEL DDS1 D
+ TNOM = 25
+ IS = 1.5131e-11
+ RS = 0.045056
+ N = 1.2852
+ XTI = 3
+ CJO = 1e-15
+ VJ = 1
+ M = 0.5
+ XTI = 3
+ BV = 20
+ IBV = 0.001
.MODEL DDS2 D
+ TNOM = 25
+ IS = 1.5131e-11
+ RS = 0.045056
+ N = 1.2852
+ XTI = 3
+ CJO = 1e-15
+ VJ = 1
+ M = 0.5
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
