* source PFET_INPUT_CHARGE
V_V1         N20884 0 10Vdc
R_R1         0 N15081  100 TC=0,0 
V_V3         VDD 0 5Vdc
V_V4         VSS 0 0Vdc
X_Q2         N21473 N26713 N20514 awbbc169 PARAMS:                             
+                
R_R6         N20514 0  10k TC=0,0 
V_V7         N17903 0  
+PULSE 0 0.5 500u 1n 1n 500u 1m
V_V8         N23888 0  
+PULSE 5 0 10u 1n 1n 990u 1m
X_M2         N21473 N25425 N20884 PMOS_TPC6130
X_Q3         N25425 N25376 0 awbbc169 PARAMS:                                  
+           
R_R7         N20884 N25425  10k TC=0,0 
R_R8         N25376 0  10k TC=0,0 
R_R9         N23888 N25376  10k TC=0,0 
X_M3         N15081 N21473 N20884 PMOS_TPC6130
X_U2         N17903 N20514 VDD VSS N26713 LF411
